US04034095
A mixture of 95 g of 3-benzyl-4-piperidine-acetic acid hydrochloride (isomeric mixture), 30 ml of concentrated ammonia solution, 900 ml of 33% formaldehyde solution and 140 ml of 90% formic acid is heated for 18 hours at boiling temperature. After cooling to room temperature and adding 120 ml of concentrated hydrochloric acid, the mixture is evaporated to dryness under reduced pressure and the residue is dried under high vacuum for 5 hours at 100°. The crude 3-benzyl-1-methyl-4-piperidine-acetic acid hydrochloride (isomeric mixture) obtained is further reacted without purification.

reactant | 3-benzyl-4-piperidine-acetic acid hydrochloride | 95 g | Cl.C(C1=CC=CC=C1)C1CNCCC1CC(=O)O
reactant | ammonia | 30 ml | N | H3N
reactant | formaldehyde | 900 ml | C=O | CH2O
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | formic acid | 140 ml | C(=O)O | CH2O2
product | 3-benzyl-1-methyl-4-piperidine-acetic acid hydrochloride | Cl.C(C1=CC=CC=C1)C1CN(CCC1CC(=O)O)C | InChI=1S/C15H21NO2.ClH/c1-16-8-7-13(10-15(17)18)14(11-16)9-12-5-3-2-4-6-12;/h2-6,13-14H,7-11H2,1H3,(H,17,18);1H
